US07273865B2
To a stirred solution of 7.00 g (44.2 mmol) 2-chloro-4-nitropyridine in 150 ml N,N-dimethylformamide were added 16.8 g (45.0 mmol) tributyl-(3,6-dihydro-2H-pyran-4-yl)stannane, 3.72 g (5.30 mmol) bis(triphenylphosphine)palladium(II) chloride, 6.95 g (26.5 mmol) triphenylphosphine, 15.0 g (353 mmol) lithium chloride and 0.97 g (4.42 mmol) 2,6-di-tert-butyl-p-cresol. The mixture was heated at 100° C. for 4 h and then cooled to room temperature and concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 9/1 then ethyl acetate) afforded 2.10 g (23%) 2-(3,6-dihydro-2H-pyran-4-yl)-4-nitro-pyridine as an orange solid. ES-MS m/e (%): 207 (M+H+, 100).

reactant | 2-chloro-4-nitropyridine | 44.2 mmol, 7.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tributyl-(3,6-dihydro-2H-pyran-4-yl)stannane | 45.0 mmol, 16.8 g | C(CCC)[Sn](C=1CCOCC1)(CCCC)CCCC
reactant | triphenylphosphine | 26.5 mmol, 6.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | 353 mmol, 15.0 g | [Cl-].[Li+]
reactant | 2,6-di-tert-butyl-p-cresol | 4.42 mmol, 0.97 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 5.30 mmol, 3.72 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3,6-dihydro-2H-pyran-4-yl)-4-nitro-pyridine | 2.10 g, 23% | O1CCC(=CC1)C1=NC=CC(=C1)[N+](=O)[O-] | C10H10N2O3
